US05674482
A mixture of 4-benzyloxyphenethyl bromide (11.8 g) and sodium sulfite (8.91 g) in tert-butyl alcohol (40 ml) and water (80 ml) is heated at reflux for 40 hours, cooled to room temperature, filtered and the solid washed with water and ether to give sodium 4-benzyloxyphenethyl sulfonate.

reactant | 4-benzyloxyphenethyl bromide | 11.8 g | C(C1=CC=CC=C1)OC1=CC=C(CCBr)C=C1 | C15H15BrO
reactant | sodium sulfite | 8.91 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tert-butyl alcohol | 40 ml | C(C)(C)(C)O | C4H10O
solvent | water | 80 ml | O | H2O
product | sodium 4-benzyloxyphenethyl sulfonate | C(C1=CC=CC=C1)OC1=CC=C(CCS(=O)(=O)[O-])C=C1.[Na+] | InChI=1S/C15H16O4S.Na/c16-20(17,18)11-10-13-6-8-15(9-7-13)19-12-14-4-2-1-3-5-14;/h1-9H,10-12H2,(H,16,17,18);/q;+1/p-1
